US04529557
150 ml of 20% strength solution of n-butyl-lithium in n-hexane were added dropwise to a suspension of 129.6 g (0.3 mol) of dry isopropyl-triphenylphosphonium iodide in 500 ml of anhydrous tetrahydrofuran, under nitrogen at 0° C. and while stirring. The deep red solution thus obtained was stirred for a further 15 minutes at 0° C., and 80.7 g (0.3 mol) of 3-bromo-4-trifluoromethoxybenzaldehyde were then added dropwise at 0° to 10° C. The mixture was then stirred at room temperature until decolorization occurred (approximately 12 hours). 900 ml of water were then added to the reaction mixture, and the mixture was extracted with 5 times 200 ml of petroleum ether. The petroleum ether phases were dried over magnesium sulphate, and the solvent was then stripped off in a rotary evaporator, in the vacuum from a water jet. 150 ml of n-hexane were added to the residue, and the mixture was stirred thoroughly and then filtered. The solvent was then distilled off from the filtrate under normal pressure, and the oily residue was then distilled in vacuo. 50 g (56.5% of theory) of 1-(3-bromo-4-trifluoromethoxyphenyl)-2-methyl-prop-1-ene were obtained as a slightly yellowish liquid of boiling point 107° to 108° C./10 mm Hg.

reactant | n-butyl-lithium | C(CCC)[Li]
reactant | isopropyl-triphenylphosphonium iodide | 0.3 mol, 129.6 g | [I-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3-bromo-4-trifluoromethoxybenzaldehyde | 0.3 mol, 80.7 g | BrC=1C=C(C=O)C=CC1OC(F)(F)F | C8H4BrF3O2
reactant | water | 900 ml | O | H2O
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 1-(3-bromo-4-trifluoromethoxyphenyl)-2-methyl-prop-1-ene | 50 g, 56.5% | BrC=1C=C(C=CC1OC(F)(F)F)C=C(C)C | C11H10BrF3O
